US08633319B2
7-[1-(1,1-Dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine
1,1-Dimethylethyl (3R)-3-[({7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-1,6-naphthyridin-5-yl}amino)methyl]-3-fluoro-1-piperidinecarboxylate (1.586 g, 3.29 mmol) was dissolved in DCM (5 ml) and trifluoroacetic acid (5.06 ml, 65.7 mmol) was added. The reaction was stirred for 20 min at 20° C. LCMS showed main peak of product. The reaction mixture was loaded onto a 20 g SCX cartridge and washed with methanol. The compound was eluted with 2M methanolic ammonia. The solvent from the ammonia fractions was evaporated and was kept under high vacuum for 2 h to give a yellow crystalline solid (1.171 g). The free base (1.12 g) was purified by High pH preparative MDAP (Method B). The appropriate fractions were combined, concentrated in vacuo and kept on high vacuum overnight to give the title compound as a yellow crystalline solid (688.1 mg).

reactant | 1,1-Dimethylethyl (3R)-3-[({7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-1,6-naphthyridin-5-yl}amino)methyl]-3-fluoro-1-piperidinecarboxylate | 3.29 mmol, 1.586 g | CC(C)(C)N1N=CC(=C1)C1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C26H35FN6O2
reactant | trifluoroacetic acid | 65.7 mmol, 5.06 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 7-[1-(1,1-Dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine | 1.171 g | CC(C)(C)N1N=CC(=C1)C=1N=C(C=2C=CC=NC2C1)NC[C@]1(CNCCC1)F | C21H27FN6
